US08729263B2
Step 5: 4-(6-((2,2,6,6-Tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenyl trifluoromethanesulfonate
To a suspension of 4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenol (98 mg, 0.239 mmol) in DCM (2 mL) was added Et3N (0.083 mL, 0.597 mmol) and N-phenyltrifluoromethanesulfonimide (172 mg, 0.48 mmol). DMF (0.5 mL) was added to aid in dissolution. The solution was stirred at room temperature overnight then concentrated. The residue was loaded onto a 2 g SCX column, washed with MeOH, eluted with 2 M NH3 in MeOH. The product-containing fractions were concentrated, and the crude material was purified via flash column chromatography to give the title compound as a beige solid (89 mg, 69%). MS (M+1)=543.3.

reactant | 4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenol | 0.239 mmol, 98 mg | CC1(NC(CC(C1)NC1=CC=C(N=N1)C1=C(C=C(C=C1)O)OC(F)(F)F)(C)C)C | C20H25F3N4O2
reactant | Et3N | 0.597 mmol, 0.083 mL | CCN(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 0.48 mmol, 172 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-((2,2,6,6-Tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenyl trifluoromethanesulfonate | 89 mg, 69% | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=NC(=CC1)NC1CC(NC(C1)(C)C)(C)C)OC(F)(F)F)(F)F | C21H24F6N4O4S
